US05891871
Methyl 2-(4-Fluorobenzoyl)-4,5-methylenedioxyphenylacetate
The title compound was prepared from methyl 3,4-methylenedioxyphenylacetate (340 mg, 1.75 mmol) in CH2Cl2 (8 mL), SnCl4 (1.0M solution in CH2Cl2 ; 3.5 mL, 3.5 mmol) and 4-fluorobenzoyl chloride (270 μL, 2.28 mmol) as a solid (350 mg, 63%). 1H NMR (CDCl3) 7.81 (m, 2H), 7.13 (m, 2H), 6.85 (s, 1H), 6.84 (s, 1H), 6.04 (s, 2H), 3.79 (s, 2H), 3.61 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 1.75 mmol, 340 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | SnCl4 | 3.5 mmol, 1.0M, 3.5 mL | Cl[Sn](Cl)(Cl)Cl
reactant | 4-fluorobenzoyl chloride | 2.28 mmol, 270 μL, 350 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-Fluorobenzoyl)-4,5-methylenedioxyphenylacetate | FC1=CC=C(C(=O)C2=C(C=C3C(=C2)OCO3)CC(=O)OC)C=C1 | C17H13FO5
